US20010018520A1
Bis[1-(1 2-hydroxy-1-dodecyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] Sebacate
Tributyltin hydride is added dropwise to a solution of 12-bromo-1-dodecanol and excess bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) sebacate in chlorobenzene. The mixture is heated to facilitate reaction. The crude reaction mixture is passed through silica gel with heptane and then heptane/ethyl acetate to afford the title compound.

reactant | Tributyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | 12-bromo-1-dodecanol | BrCCCCCCCCCCCCO | C12H25BrO
reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
reactant | heptane | CCCCCCC | C7H16
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Bis[1-(1 2-hydroxy-1-dodecyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] Sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCO)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCO)(C)C | C52H100N2O8
